US04663319
A mixture of benzylamine (43.24 g) and methylene chloride (300 ml) is cooled with ice-water, and a solution of ethoxycarbonylacetyl chloride (29.63 g) in methylene chloride (150 ml) is added dropwise thereto. The mixture is stirred at the same temperature for 2 hours. The mixture is filtered to remove precipitates (benzylamine hydrochloride). The filtrate is washed with 2% hydrochloric acid and a saturated sodium chloride solution, dried and then evaporated to remove the solvent. The residue is recrystallized from a mixture of ether and n-hexane, whereby ethyl (N-benzylcarbamoyl)acetate (42.15 g) is obtained as colorless needles. Yield: 96.8%.

reactant | benzylamine | 43.24 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ethoxycarbonylacetyl chloride | 29.63 g | C(C)OC(=O)CC(=O)Cl | C5H7ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | ethyl (N-benzylcarbamoyl)acetate | 42.15 g, Yield: 96.8% | C(C1=CC=CC=C1)NC(=O)CC(=O)OCC | C12H15NO3
